### PR TITLE
replace `measurableArgmax` by `argmax`

### PR DESCRIPTION
**Pull request by gaetanserre**
Replace `measurableArgmax` by a more canonical version. The measurability now only depends on `MeasurableEq` and `MeasurableSup₂` instances. Add a measurable `argmin` counterpart.

### CODE REVIEW

File: LeanMachineLearning/ForMathlib/MeasureTheory/Order/Lattice.lean [hunk 1]
```diff
@@ -0,0 +1,23 @@
...
+-/
+
+@[expose] public section
+
+open Finset
+
+variable {δ α : Type*} [MeasurableSpace δ] [SemilatticeInf α] [MeasurableSpace α] [MeasurableInf₂ α]
+
+@[fun_prop]
+theorem Finset.measurable_inf' {ι : Type*} {s : Finset ι} (hs : s.Nonempty) {f : ι → δ → α}
```
Comment (RemyDegenne) [inline LeanMachineLearning/ForMathlib/MeasureTheory/Order/Lattice.lean:25]: Can you add a comment above the lemma to point to `Finset.measurable_sup'`?

File: LeanMachineLearning/ForMathlib/MeasureTheory/Order/MeasurableArg.lean [hunk 2]
```diff
@@ -0,0 +1,140 @@
...
+Authors: Gaëtan Serré
+-/
+module
+
+public import LeanMachineLearning.ForMathlib.MeasureTheory.Order.Lattice
+public import Mathlib.CategoryTheory.Countable
+public import Mathlib.MeasureTheory.Constructions.Polish.Basic
+public import Mathlib.Order.CompletePartialOrder
+
+/-! # Measurable argmax and argmin functions
```
Comment (RemyDegenne) [inline LeanMachineLearning/ForMathlib/MeasureTheory/Order/MeasurableArg.lean]:
```suggestion
/-! # Argmax and argmin functions on finite sets

We prove in particular that those functions are measurable.
```

File: LeanMachineLearning/ForMathlib/MeasureTheory/Order/MeasurableArg.lean [hunk 3]
```diff
@@ -0,0 +1,140 @@
...
+variable [MeasurableSpace α]
+
+section argmax
+
+@[fun_prop]
+lemma measurable_max [MeasurableSup₂ α] : Measurable (fun (t : ι → α) => t.max) := by
+  suffices (fun f : ι → α ↦ f.max) = (univ.sup' univ_nonempty fun i f => f i) by
+    rw [this]
+    exact measurable_sup' univ_nonempty (fun i _ => measurable_pi_apply i)
+  ext; simp [Function.max]
```
Comment (RemyDegenne) [inline LeanMachineLearning/ForMathlib/MeasureTheory/Order/MeasurableArg.lean]:
```suggestion
  ext
  simp [Function.max]
```

File: LeanMachineLearning/ForMathlib/MeasureTheory/Order/MeasurableArg.lean [hunk 4]
```diff
@@ -0,0 +1,140 @@
...
+end argmax
+
+section argmin
+
+@[fun_prop]
+lemma measurable_min [MeasurableInf₂ α] : Measurable (fun (f : ι → α) => f.min) := by
+  suffices (fun f : ι → α ↦ f.min) = (univ.inf' univ_nonempty fun i f => f i) by
+    rw [this]
+    exact measurable_inf' univ_nonempty (fun i _ => measurable_pi_apply i)
+  ext; simp [Function.min]
```
Comment (RemyDegenne) [inline LeanMachineLearning/ForMathlib/MeasureTheory/Order/MeasurableArg.lean]:
```suggestion
  ext
  simp [Function.min]
```

File: LeanMachineLearning/ForMathlib/MeasureTheory/Order/MeasurableArg.lean [hunk 5]
```diff
@@ -0,0 +1,140 @@
...
+
+/-- The maximum value of a tuple. -/
+abbrev max : α := univ.sup' (by simp) f
+
+/-- The minimum value of a tuple. -/
+abbrev min : α := univ.inf' (by simp) f
+
+lemma le_max (x : ι) : f x ≤ max f := le_sup' _ (by simp)
+
+lemma min_le (x : ι) : min f ≤ f x := inf'_le _ (by simp)
```
Comment (RemyDegenne) [inline LeanMachineLearning/ForMathlib/MeasureTheory/Order/MeasurableArg.lean]:
```suggestion
/-- The maximum value of a tuple. -/
@[to_dual /-- The minimum value of a tuple. -/]
abbrev max : α := univ.sup' univ_nonempty f

@[to_dual min_le]
lemma le_max (x : ι) : f x ≤ max f := le_sup' _ (by simp)
```

Comment (RemyDegenne) [reply LeanMachineLearning/ForMathlib/MeasureTheory/Order/MeasurableArg.lean]: You can also probably use `to_dual` for more lemmas in this file.

**Review by RemyDegenne — COMMENTED** [review]
Can you update the PR description following the name change?

File: LeanMachineLearning/ForMathlib/MeasureTheory/Order/Lattice.lean [hunk 6]
```diff
@@ -0,0 +1,24 @@
...
+
+open Finset
+
+variable {δ α : Type*} [MeasurableSpace δ] [SemilatticeInf α] [MeasurableSpace α] [MeasurableInf₂ α]
+
+/-- Dual version of `Finset.measurable_sup'`. -/
+@[fun_prop]
+theorem Finset.measurable_inf' {ι : Type*} {s : Finset ι} (hs : s.Nonempty) {f : ι → δ → α}
+    (hf : ∀ n ∈ s, Measurable (f n)) : Measurable (s.inf' hs f) :=
+  Finset.inf'_induction hs _ (fun _f hf _g hg => hf.inf hg) fun n hn => hf n hn
```
Comment (RemyDegenne) [inline LeanMachineLearning/ForMathlib/MeasureTheory/Order/Lattice.lean]: You can add to_dual here as well:
```suggestion
variable {α δ : Type*} [MeasurableSpace δ] [SemilatticeInf α] {m : MeasurableSpace α}
  [MeasurableInf₂ α]

attribute [to_dual existing] MeasurableInf₂

/-- Dual version of `Finset.measurable_sup'`. -/
@[to_dual existing (attr := fun_prop)]
theorem Finset.measurable_inf' {ι : Type*} {s : Finset ι} (hs : s.Nonempty) {f : ι → δ → α}
    (hf : ∀ n ∈ s, Measurable (f n)) : Measurable (s.inf' hs f) :=
  Finset.inf'_induction hs _ (fun _f hf _g hg => hf.inf hg) fun n hn => hf n hn
```

File: LeanMachineLearning/ForMathlib/MeasureTheory/Order/MeasurableArg.lean [hunk 7]
```diff
@@ -0,0 +1,120 @@
...
+lemma argmax_spec : f (argmax f) = f.max := (exists_argmax f).choose_spec
+
+@[to_dual isMinOn_argmin]
+lemma isMaxOn_argmax (x : ι) : f x ≤ f (argmax f) := by
+  rw [argmax_spec f]
+  exact f.le_max x
+
+variable [MeasurableSpace α]
+
+@[fun_prop]
```
Comment (RemyDegenne) [inline LeanMachineLearning/ForMathlib/MeasureTheory/Order/MeasurableArg.lean]:
```suggestion
@[to_dual (attr := fun_prop)]
```

File: LeanMachineLearning/ForMathlib/MeasureTheory/Order/MeasurableArg.lean [hunk 8]
```diff
@@ -0,0 +1,120 @@
...
+lemma measurable_max [MeasurableSup₂ α] : Measurable (fun (t : ι → α) => t.max) := by
+  suffices (fun f : ι → α ↦ f.max) = (univ.sup' univ_nonempty fun i f => f i) by
+    rw [this]
+    exact measurable_sup' univ_nonempty (fun i _ => measurable_pi_apply i)
+  ext
+  simp [Function.max]
+
+@[fun_prop]
```
Comment (RemyDegenne) [inline LeanMachineLearning/ForMathlib/MeasureTheory/Order/MeasurableArg.lean]:
```suggestion
@[to_dual (attr := fun_prop)]
```

**Review by RemyDegenne — APPROVED** [review]
Thanks!
